US09340510B2
2,3,5,6,7,8-Hexahydro-1,4-dioxa-7-aza-phenanthrene hydrochloride
To 1.3 g (3.9 mmol) 2-(2,3-bis-benzyloxy-phenyl)-ethylamine (Chimie therapeutique 8, 1973, 308) and 0.44 mL (8.8 mmol) formaldehyde (37% solution in water) in 10 mL DCM are added slowly 0.60 mL (7.8 mmol) TFA and the resulting mixture is stirred at r.t. over night. The reaction is neutralised by the addition of a sat. aq. NaHCO3 solution and extracted with DCM. The organic layer is dried over MgSO4, filtered and the solvent is removed in vacuo.

reactant | 2-(2,3-bis-benzyloxy-phenyl)-ethylamine | 3.9 mmol, 1.3 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1OCC1=CC=CC=C1)CCN | C22H23NO2
reactant | formaldehyde | 8.8 mmol, 0.44 mL | C=O | CH2O
reactant | TFA | 7.8 mmol, 0.60 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,3,5,6,7,8-Hexahydro-1,4-dioxa-7-aza-phenanthrene hydrochloride | Cl.O1CCOC2=C3CCNCC3=CC=C12 | InChI=1S/C11H13NO2.ClH/c1-2-10-11(14-6-5-13-10)9-3-4-12-7-8(1)9;/h1-2,12H,3-7H2;1H
